US07875721B2
1-[4-(6-Trimethylsilanylethynyl-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethanone
A solution of the catalyst Sc(OTf)3 (0.032 g, 0.065 mmol, 10 mol %) in acetonitrile (0.2 mL) was added to the mixture of 6-trimethylsilanylethynyl-benzo[1,3]dioxole-5-carbaldehyde (0.160 g, 0.65 mmol), p-aminoacetophenone (0.0878 g, 0.65 mmol) and cyclopentadiene (0.214 g, 3.25 mmol) in acetonitrile (3 mL). The reaction was stirred at ambient temperature (˜23° C.) and the progress was monitored by thin layer chromatography. The reaction was complete after 2 hr. The reaction mixture was worked up by removal of solvent and other volatiles by evaporation under reduced pressure. The crude material was purified by preparative column chromatography using silica gel (SiO2) eluted with EtOAc/hexane (polar phase composition 8% EtOAc). The fractions containing pure product were evaporated in vacuo. The yield was 97%.

reactant | 6-trimethylsilanylethynyl-benzo[1,3]dioxole-5-carbaldehyde | 0.65 mmol, 0.160 g | C[Si](C)(C)C#CC=1C(=CC2=C(OCO2)C1)C=O | C13H14O3Si
reactant | p-aminoacetophenone | 0.65 mmol, 0.0878 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | cyclopentadiene | 3.25 mmol, 0.214 g | C1=CC=CC1 | C5H6
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | Sc(OTf)3 | 0.065 mmol, 0.032 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
product | 1-[4-(6-Trimethylsilanylethynyl-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethanone | yield was 97% | C[Si](C)(C)C#CC=1C(=CC2=C(OCO2)C1)C1NC=2C=CC(=CC2C2C1CC=C2)C(C)=O | C26H27NO3Si
